US08580783B2
3-[2-amino-5-(4-benzyloxy-3-methoxy-benzyl)-[1,2,4]triazolo[1,5-c]quinazolin-8-ylamino]-propan-1-ol
Operating as in Example 54, but employing 5-(4-benzyloxy-3-methoxy-benzyl)-8-fluoro-[1,2,4]triazolo[1,5-c]quinazolin-2-ylamine prepared as described in Example 34 instead of 5-benzo[1,3]dioxol-5-ylmethyl-8-fluoro-[1,2,4]triazolo[1,5-c]quinazolin-2-ylamine and 3-hydroxy-propylamine instead of morpholine, the title compound was obtained in 35% yield.

reactant | 5-(4-benzyloxy-3-methoxy-benzyl)-8-fluoro-[1,2,4]triazolo[1,5-c]quinazolin-2-ylamine | C(C1=CC=CC=C1)OC1=C(C=C(CC2=NC=3C=C(C=CC3C=3N2N=C(N3)N)F)C=C1)OC | C24H20FN5O2
reactant | 5-benzo[1,3]dioxol-5-ylmethyl-8-fluoro-[1,2,4]triazolo[1,5-c]quinazolin-2-ylamine | O1COC2=C1C=CC(=C2)CC2=NC=1C=C(C=CC1C=1N2N=C(N1)N)F | C17H12FN5O2
reactant | 3-hydroxy-propylamine | OCCCN | C3H9NO
product | 3-[2-amino-5-(4-benzyloxy-3-methoxy-benzyl)-[1,2,4]triazolo[1,5-c]quinazolin-8-ylamino]-propan-1-ol | 35% yield | NC1=NN2C(=NC=3C=C(C=CC3C2=N1)NCCCO)CC1=CC(=C(C=C1)OCC1=CC=CC=C1)OC | C27H28N6O3
